US07632838B2
A solution of (R)-4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methyl-1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylsulfonyl)piperazine (106 mg, 0.2 mmol) and Pd(PPh3 (12 mg, 0.01 mmol) in THF (2 mL) was degassed and then added Na2CO3 (0.6 mL, 1.0 M in water, 0.6 mmol) and 2-bromo-3,3,3-trifluoroprop-1-ene (105 mg, 0.6 mmol) under N2. The resultant mixture was heated in a sealed tube in an oil bath at 60° C. overnight. After cooling, diluted with Et2O (10 mL), washed with brine and extracted with Et2O. The combined organic layer was dried over Na2SO4. The crude product was purified on SiO2 gel column eluted with hexanes/EtOAc to give (R)-4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methyl-1-(3-(3,3,3-trifluoroprop-1-en-2-yl)phenylsulfonyl)piperazine as a colorless oil (83 mg, 85%).

reactant | (R)-4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methyl-1-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylsulfonyl)piperazine | 0.2 mmol, 106 mg | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C)C(F)(F)F | C24H29BF4N2O4S
reactant | PPh3 | 0.01 mmol, 12 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Na2CO3 | 0.6 mmol, 1.0 M, 0.6 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-bromo-3,3,3-trifluoroprop-1-ene | 0.6 mmol, 105 mg | BrC(=C)C(F)(F)F | C3H2BrF3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | Et2O | 10 mL | CCOCC | C4H10O
catalyst | Pd | [Pd] | Pd
product | (R)-4-(4-fluoro-2-(trifluoromethyl)phenyl)-2-methyl-1-(3-(3,3,3-trifluoroprop-1-en-2-yl)phenylsulfonyl)piperazine | 83 mg, 85% | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C1=CC(=CC=C1)C(=C)C(F)(F)F)C)C(F)(F)F | C21H19F7N2O2S
